US05466689
3,4-Dihydro-6-methoxy-1-p-toluenesulfonyl-4-trifluoroacetylaminobenz[cd]indol-5(1H)-one
To a suspension of 4-amino-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz[cd]indol-5(1H)-one hydrochloride (1.45 g, 3.50 mmol) in dichloromethane (30 ml) were added, while stirring under ice-cooling, anhydrous trifluoroacetic acid (0.61 ml, 4.27 mmol) and triethylamine (1.18 ml, 16.1 mmol). The mixture was stirred for 30 minutes as it was. After completion of the reaction, the reaction mixture was subjected to distillation under reduced pressure. The residue was shaken together with ethyl acetate (40 ml)-1N HCl (30 ml) to allow two layers to be formed. The organic layer was washed with an aqueous saline solution and dried (anhydrous Na2SO4). The solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate-n-hexane to afford the title compound (1.2 g, 73%, m.p.189°-190° C.)

reactant | 4-amino-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz[cd]indol-5(1H)-one hydrochloride | 3.50 mmol, 1.45 g | Cl.NC1C(C=2C=3C(=CN(C3C=CC2OC)S(=O)(=O)C2=CC=C(C=C2)C)C1)=O
reactant | trifluoroacetic acid | 4.27 mmol, 0.61 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 16.1 mmol, 1.18 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3,4-Dihydro-6-methoxy-1-p-toluenesulfonyl-4-trifluoroacetylaminobenz[cd]indol-5(1H)-one | 1.2 g, 73% | COC1=C2C=3C(=CN(C3C=C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C2=O)NC(C(F)(F)F)=O | C21H17F3N2O5S
